US07238716B2
To a solution of methyl 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzoate (2.06 g) in tetrahydrofuran (30 mL) was dropwise added a solution (0.9 M, 30 mL) of diisobutylaluminum hydride in hexane at 0° C. and the mixture was stirred at room temperature for 2 hrs. Diethyl ether was added to the reaction mixture, sodium sulfate 10 hydrate was further added and the mixture was stirred for 2 hrs. After filtering off insoluble materials, the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give white crystals (1.85 g, 98%) of 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyl alcohol from a fraction eluted with ethyl acetate-hexane (1:1, v/v). melting point: 88-90° C.

reactant | methyl 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzoate | 2.06 g | CC(C1=CC=C(C(=O)OC)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C19H18N2O2S
reactant | diisobutylaluminum hydride | 0.9 M, 30 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | sodium sulfate 10 hydrate | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyl alcohol | 1.85 g, 98% | CC(C1=CC=C(CO)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C18H18N2OS
